US04549019
10 g of sodium are dissolved in 200 ml of absolute methanol, whereupon the solution is treated with 30 g of guanidine hydrochloride. While stirring there is added thereto a solution of 50 g of methyl[(1-ethoxy-2-ethoxycarbonyl)ethylidene]carbamate in 150 ml of absolute methanol. The resulting suspension is stirred overnight and thereafter concentrated at 40° in a water-jet vacuum. 600 ml of water are added to the residue and the resulting suspension is adjusted to pH 5 with glacial acetic acid while stirring. The resulting precipitate is filtered off under suction, washed with 250 ml of water and dried at 50° in vacuo. There is obtained methyl 2-amino-1,6-dihydro-6-oxo-4-pyrimidinecarbamate which is uniform according to thin-layer chromatography.

reactant | sodium | 10 g | [Na] | Na
reactant | guanidine hydrochloride | 30 g | Cl.NC(=N)N
reactant | methyl[(1-ethoxy-2-ethoxycarbonyl)ethylidene]carbamate | 50 g | COC(N=CCC(=O)OCCOCC)=O | C9H15NO5
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | methyl 2-amino-1,6-dihydro-6-oxo-4-pyrimidinecarbamate | NC=1NC(C=C(N1)NC(=O)OC)=O | C6H8N4O3
